US07781591B2
To a stirred solution of 3-hydroxyphenylacetic acid methyl ester (22.6 g, 136 mmol) and 2-chloroethyl p-toluenesulfonate (40 g, 171 mmol) in 900 mL of acetone was added Cs2CO3 (88.8 g, 272 mmol) and the mixture was headed at reflux for 3 h. The reaction mixture was then cooled, filtered, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluting with a gradient of 0-7% EtOAc in hexanes to yield 28.9 g (90% yield) of [3-(2-chloroethoxy)phenyl]-acetic acid methyl ester as a colorless oil.

reactant | 3-hydroxyphenylacetic acid methyl ester | 136 mmol, 22.6 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | 2-chloroethyl p-toluenesulfonate | 171 mmol, 40 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCl)C | C9H11ClO3S
reactant | Cs2CO3 | 272 mmol, 88.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetone | 900 mL | CC(=O)C | C3H6O
product | [3-(2-chloroethoxy)phenyl]-acetic acid methyl ester | 28.9 g, 90% yield | COC(CC1=CC(=CC=C1)OCCCl)=O | C11H13ClO3
